* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Push-pull-amplifier.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 15
V2 Vee 0 -15
V3 N003 0 SINE(0 1 5 0 0 0 0)
Q1 V+ N002 N001 0 2N3904
Q2 V- N002 N001 0 2N3906
R1 N001 0 2.5
X§U1 N003 N001 Vcc Vee N002 LT1007 ;§pnba In+)In-)V+)V-)OUT
V4 V+ 0 1.5
V5 V- 0 -1.5
M1 Vcc N005 N004 N004 AO6408
M2 N004 N005 Vee Vee AO6407
R2 N004 0 10k
V8 N006 0 SINE(0 1 5)
X§U2 N006 N004 Vcc Vee N005 LT1007 ;§pnba In+)In-)V+)V-)OUT
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Amplificatore di tipo push & pull con BJT. Allows to amplify a negative signal and can\nsupply more current than an opamp.\n \nNeeds dual rail power supply.\n \nKeep BJT dissipated power low.
* Push & pull with mosfets.\nCan handle more current than BJTs
* Push & Pull amplifier
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
